US06008239
To a solution of 60% sodium hydride (131 mg, 3.29 mmol) in N,N-dimethylformamide (50 ml), 2-(2,4-difluorophenyl)-1,1-difluoro-1-[(2-methoxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol (1.0 g, 2.74 mmol) was added dropwise under ice cooling. The resulting mixture was stirred at room temperature for 30 minutes. To the reaction mixture, methyl iodide (516 mg, 3.56 mmol) was added dropwise under ice cooling and the resulting mixture was stirred at room temperature for one hour. Water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The ethyl acetate solution was washed with water, dried over anhydrous sodium sulfate and then distilled off under reduced pressure. The residue was separated and purified by a silica gel column (chloroform:n-hexane=50:1), whereby 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)thio]propyl}-1H-1,2,4-triazole (894 mg, yield: 86.0%) was obtained as a yellow oil.

reactant | sodium hydride | 3.29 mmol, 131 mg | [H-].[Na+]
reactant | 2-(2,4-difluorophenyl)-1,1-difluoro-1-[(2-methoxyethyl)thio]-3-(1H-1,2,4-triazol-1-yl)-2-propanol | 2.74 mmol, 1.0 g | FC1=C(C=CC(=C1)F)C(C(SCCOC)(F)F)(CN1N=CN=C1)O | C14H15F4N3O2S
reactant | methyl iodide | 3.56 mmol, 516 mg | CI | CH3I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-{2-(2,4-difluorophenyl)-3,3-difluoro-2-methoxy-3-[(2-methoxyethyl)thio]propyl}-1H-1,2,4-triazole | 894 mg, yield: 86.0% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(SCCOC)(F)F)OC | C15H17F4N3O2S
